US09227962B2
To a solution of methyl 2-oxoindoline-5-carboxylate (0.40 g, 4.8 mmol) in EtOH (8 ml) was added hydrazine monohydrate (2 ml), and the mixture was stirred for 6 h at 80° C. The mixture was cooled to room temperature, and the resulting precipitate was filtered and dried to afford 2-oxoindoline-5-carbohydrazide (0.25 g, 63%).

reactant | methyl 2-oxoindoline-5-carboxylate | 4.8 mmol, 0.40 g | O=C1NC2=CC=C(C=C2C1)C(=O)OC | C10H9NO3
reactant | hydrazine monohydrate | 2 ml | O.NN
solvent | EtOH | 8 ml | CCO | C2H6O
product | 2-oxoindoline-5-carbohydrazide | 0.25 g, 63% | O=C1NC2=CC=C(C=C2C1)C(=O)NN | C9H9N3O2
